US05792860
A mixture of 2-dodecyloxyphenol (4.75 g, 17.1 mmole), 3,6,9-trioxadecyl-p-toluene sulphonate24 (6 g, 18.9 mmole), dry acetone (50 ml) and anhydrous potassium carbonate (2.6 g, 18.9 mmole) was stirred and heated to reflux under a nitrogen atmosphere for 48 h. Upon cooling the reaction mixture was filtered and the acetone removed under reduced pressure. Distillation of the resultant oil, under reduced pressure, gave 1-dodecyloxy-2-(1,4,7,10-tetraoxaundecyl)benzene as a clear oil (5.4 g, 74%), b.p. 245° C./0.4 mmHg; MS (CI) m/e 442 (M+ +NH4+), δH (200 MHz, CDCl3) 0.88(t, 3H), 1.26(br s, 18H), 1.80(q, 2H), 3.38 (s, 3H), 3.50-3.80 (m, 8H), 3.87 (t, 2H), 3.98 (t, 2H), 4.17(t, 2H) and 6.90(s, 4H) which was used in the next step without further purification.

reactant | 2-dodecyloxyphenol | 17.1 mmole, 4.75 g | C(CCCCCCCCCCC)OC1=C(C=CC=C1)O | C18H30O2
reactant | potassium carbonate | 18.9 mmole, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-dodecyloxy-2-(1,4,7,10-tetraoxaundecyl)benzene | 5.4 g, 74% | C(CCCCCCCCCCC)OC1=C(C=CC=C1)OCCOCCOCCOC | C25H44O5
